US05179105
Under a current of argon, a solution having 832 mg of sodium hydride suspended in 60 ml and a solution of 4.17 g of trimethyl phosphonoacetate in 15 ml of tetrahydrofuran added thereto as kept cooled with ice were stirred for 30 minutes and the resultant mixture and a solution of 4.39 g of 4-methoxymethoxy-3-nitrobenzaldehyde in 15 ml of tetrahydrofuran added thereto were stirred for eight hours with the temperature raised to room temperature in the meantime. The produced reaction mixture was combined with water and extracted from ethyl acetate. The consequently separated organic layer was washed with saturated saline solution and dried with anhydrous sodium sulfate. The residue from drying was concentrated under a vacuum. The resultant concentrate was subjected to silica gel column chromatography. From the hexane-ethyl acetate (3:1 V/V) eluate, 4.52 g of methyl 4-methoxymethoxy-3-nitrocinnamate was obtained in the form of yellow crystals. The yield was 81%.

reactant | sodium hydride | 832 mg | [H-].[Na+]
reactant | trimethyl phosphonoacetate | 4.17 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | 4-methoxymethoxy-3-nitrobenzaldehyde | 4.39 g | COCOC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C9H9NO5
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | methyl 4-methoxymethoxy-3-nitrocinnamate | 4.52 g, yield was 81% | COCOC1=C(C=C(C=CC(=O)OC)C=C1)[N+](=O)[O-] | C12H13NO6
